US07807691B2
5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-3,4-dihydro-2H-pyrrole
To a solution of 5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-5-oxopentanoic acid (444 mg, 1.68 mmol) and N,N-diisopropylethylamine (0.292 mL, 1.68 mmol) in chloroform, add diphenylphosphorylazide (0.364 mL, 1.68 mmol). Stir at room temperature for 2 days, then treat with 2N NaOH. After 1 h, dilute the reaction with chloroform and water, then separate the organic layer and dry with magnesium sulfate, filter, and concentrate under reduced pressure to obtain 132 mg (36%) of the title compound. MS: 218 [M+H]+; 1H NMR (300 MHz, CDCl3): δ 7.40 (s, 1H), 7.20-7.24 (m, 1H), 6.78-6.81 (m, 1H), 6.00 (s, 2H), 3.75-3.74 (m, 2H), 2.72-2.71 (m, 2H) and 1.16 (s, 6H).

reactant | 5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-5-oxopentanoic acid | 1.68 mmol, 444 mg | O1COC2=C1C=CC(=C2)C(CC(CC(=O)O)(C)C)=O | C14H16O5
reactant | N,N-diisopropylethylamine | 1.68 mmol, 0.292 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylphosphorylazide | 1.68 mmol, 0.364 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | NaOH | 2N | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5-(1,3-benzodioxol-5-yl)-3,3-dimethyl-3,4-dihydro-2H-pyrrole | 132 mg, 36% | O1COC2=C1C=CC(=C2)C=2CC(CN2)(C)C | C13H15NO2
